US04247692
Preparation of 2,4-di-(carbomethoxycyanomethyl)-6-methoxy-s-triazine
The preparation was carried out in the same way as indicated in Example II. 2.70 g (0.015 moles) of 2-methoxy-4,6-dichloro-s-triazine were converted with the reaction product of 5.95 g (0.06 moles) of methyl cyanoacetate and 1.44 g (0.06 moles) of sodium hydride. After extraction with methanol and petroleum ether (boiling point 40°-60° C.) 3.74 g of 2,4-di-(carbomethoxycyanomethyl)-6-methoxy-s-triazine were obtained in 82% yield. The UV absorption maxima were at' ##EQU18##

reactant | 2-methoxy-4,6-dichloro-s-triazine | 0.015 moles, 2.70 g | COC1=NC(=NC(=N1)Cl)Cl | C4H3Cl2N3O
reactant | methyl cyanoacetate | 0.06 moles, 5.95 g | C(#N)CC(=O)OC | C4H5NO2
reactant | sodium hydride | 0.06 moles, 1.44 g | [H-].[Na+]
product | 2,4-di-(carbomethoxycyanomethyl)-6-methoxy-s-triazine | 82% yield | C(=O)(OC)C(C1=NC(=NC(=N1)C(C#N)C(=O)OC)OC)C#N | C12H11N5O5
